US06638927B2
2-Fluoro-4-methoxy-benzaldehyde (1 equivalent) was dissolved in MeOH and chilled in an ice bath. Nitromethane (1 equivalent) was added. NaOH (1.05 equivalents) in water was added dropwise to the nitromethane/aldehyde solution, such that the temperature did not rise above 15° C. The reaction was then allowed to stir at 0° C. for 15 minutes. The reaction mixture was poured into concentrated HCl diluted with water. Product was extracted with EtOAc and washed with water, brine, and dried (Na2SO4). Solvent was removed to yield a yellow oil which was freeze-dried in 90% MeCN/H2O to give the product 2-fluoro-4-methoxy-1-(2-nitro-vinyl)-benzene, which was used without further purification.

reactant | 2-Fluoro-4-methoxy-benzaldehyde | 1 equivalent | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
reactant | Nitromethane | 1 equivalent | [N+](=O)([O-])C | CH3NO2
reactant | NaOH | 1.05 equivalents | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | CO | CH4O
solvent | water | O | H2O
product | 2-fluoro-4-methoxy-1-(2-nitro-vinyl)-benzene | FC1=C(C=CC(=C1)OC)C=C[N+](=O)[O-] | C9H8FNO3
